US08623859B2
1-(4-{[{[5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}(methyl)amino]methyl}benzyl)-N,N-dimethylpyrrolidine-3-carboxamide
The title compound was prepared according to general procedure BH using 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (40 mg, 0.11 mmol), EDCI (29 mg, 0.15 mmol), HOBt (22 mg, 0.16 mmol), DIPEA (0.04 mL, 0.22 mmol), N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidine-3-carboxamide dihydrochloride (42 mg, 0.13 mmol) and DCM (5 mL).

reactant | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.11 mmol, 40 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.16 mmol, 22 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.22 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidine-3-carboxamide dihydrochloride | 0.13 mmol, 42 mg | Cl.Cl.CN(C(=O)C1CN(CC1)CC1=CC=C(C=C1)CNC)C
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-{[{[5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}(methyl)amino]methyl}benzyl)-N,N-dimethylpyrrolidine-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(CN2CC(CC2)C(=O)N(C)C)C=C1)C | C32H42N4O6S
